US04454320
2-Benzoylthiophene (19 g., 0.1 mole), ethylene glycol (11 ml., 0.2 mole), toluene (150 ml.) and p-toluenesulfonic acid (about 0.2 g.) were combined and refluxed for 6 hours. By-product water was collected in a Dean-Stark trap. Tlc (1:8 ethyl acetate:hexane) indicated reaction to be about 40% complete. More ethylene glycol (30 ml.) was added and reflux continued for 35 hours. Reaction was still incomplete. The reaction mixture was diluted with 200 ml. of ether, washed twice with 150 ml. portions of water and concentrated to dryness. The residue was chromatographed on about 500 ml. of silica gel, with 1:8 ethyl acetate:hexane as eluant, monitored by tlc. Faster moving, product containing fractions were combined and evaporated to yield 2-phenyl-2-(2-thienyl)-1,3-dioxolane [8 g., oil, Rf 0.6 (1:8 ethyl acetate:hexane)].

reactant | 2-Benzoylthiophene | 0.1 mole, 19 g | C(C1=CC=CC=C1)(=O)C=1SC=CC1 | C11H8OS
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethylene glycol | 30 ml | C(CO)O | C2H6O2
reactant | ethylene glycol | 0.2 mole, 11 ml | C(CO)O | C2H6O2
catalyst | p-toluenesulfonic acid | about 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-phenyl-2-(2-thienyl)-1,3-dioxolane | 8 g | C1(=CC=CC=C1)C1(OCCO1)C=1SC=CC1 | C13H12O2S
